US05635510
65.1 Synthesis of 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-triethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol
Combine 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (260 mg, 1 mmol) and and potassium carbonate (0.69 g, 5 mmol) in ethyl acetate/water (10 mL/10 mL). Cool in an ice-bath. Add a solution of triethoxy-benzoyl chloride (1.2 mmol) in ethyl acetate (10 mL). After 1 hour, dilute with ethyl acetate and extract with 1M hydrochloric acid solution, 5% sodium bicarbonate solution, and water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give the title compound: Rf =0.43 (silica gel, 6% methanol/dichloromethane).

reactant | 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 1 mmol, 260 mg | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
reactant | potassium carbonate | 5 mmol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethoxy-benzoyl chloride | 1.2 mmol | C(C)OC1=C(C(=C(C(=O)Cl)C=C1)OCC)OCC | C13H17ClO4
solvent | ethyl acetate water | 10 mL | C(C)(=O)OCC.O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-triethoxy-benzoyl)-pyrrolidin-3-yl]-ethanol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OCC)OCC)OCC)=O)CCO | C25H31Cl2NO5
